US05994569
The compound (S)-2-[(1R,3aR,4S,7aR)-4-(tert-Butyl-dimethylsilanyloxy)-7a-methyl-octahydro-inden-1-yl]-propan-1-ol (5.00 g; 15.31 mmol) is dissolved in dichloromethane (75 ml) at room temperature. Tosyl chloride (8.76 g; 45.93 mmol; 3 equivalents) and dimethyl-aminopyridine (5.61 g; 45.93 mmol; 3 equivalents) are added. The mixture is allowed to react over night. The reaction mixture is poured on brine and extracted with ethyl-acetate. The organic phase is dried over sodium sulfate and the solvents are removed. The crude tosylate is directly used in the next step. The intermediate tosylate is dissolved in DMSO (35 ml), NaCN (2.25 g; 45.93 mmol; 3 equivalents) is added and heated for 2 hours at 90° C. The reaction mixture is poured in water and extracted with hexane/ethyl-acetate 1:1. The organic phase is dried over sodium sulfate and the solvents are removed. The crude cyanide is directly used in the next step. The intermediate cyanide is dissolved in dichloromethane (50 ml), DIBAH is added slowly at -10° C. (38.3 ml of a 1.2 M solution; 45.93 mmol; 3 equivalents) and stirred for 2 hours at -10° C. The temperature is allowed to raise above the freezing point and a 1 M aqueous solution of ammonium chloride is added. After 10 minutes a 2:1 ether/1 N aqueous HCl (30 ml) is added and allowed to react for 15 minutes. The reaction mixture is extracted with ethyl-acetate. The organic phase is dried over sodium sulfate and the solvents are removed. After flash-chromatography (hexane/ethyl-acetate 95:5) (R)-3-[(1R,3aR,4S,7aR)-4(tert-Butyl-dimethylsilanyloxy)-7a-methyl-octahydro-inden-1-yl]-butan-1-al is obtained as a colorless waxy solid.

reactant | (S)-2-[(1R,3aR,4S,7aR)-4-(tert-Butyl-dimethylsilanyloxy)-7a-methyl-octahydro-inden-1-yl]-propan-1-ol | 15.31 mmol, 5.00 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H]2CC[C@@H]([C@]2(CCC1)C)[C@@H](CO)C | C19H38O2Si
reactant | Tosyl chloride | 45.93 mmol, 8.76 g, 3 equivalents | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | dimethyl-aminopyridine | 45.93 mmol, 5.61 g, 3 equivalents | CC1=C(C(=NC=C1)N)C | C7H10N2
reactant | NaCN | 45.93 mmol, 2.25 g, 3 equivalents | [C-]#N.[Na+]
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (R)-3-[(1R,3aR,4S,7aR)-4(tert-Butyl-dimethylsilanyloxy)-7a-methyl-octahydro-inden-1-yl]-butan-1-al | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H]2CC[C@@H]([C@]2(CCC1)C)[C@@H](CC=O)C | C20H38O2Si
